US04181723
A suspension of 14.4 g of 6-carbethoxy-5,6,7,8-tetrahydro-4-methyl-3(2H)pyrido[4,3-c]-pyridazinone in 100 cc of concentrated hydrochloric acid is heated to the boil at reflux for 20 hours while stirring. The resulting 5,6,7,8-tetrahydro-4-methyl-3(2H)pyrido[4,3-c]pyridazinone is isolated (M.P. of the hydrochloride 344° to 348°) and is converted in a manner analogous to that described in Example 1(e) into 3-chloro-5,6,7,8-tetrahydro-4-methylpyrido[4,3-c]pyridazine (M.P. of the maleate: 170° to 173°), this is reacted with o-fluorobenzoyl chloride, whereby 3-chloro-6-(o-fluorobenzoyl)-5,6,7,8-tetrahydro-4-methylpyrido[4,3-c]pyridazine is obtained (M.P. 151°-153°).

reactant | 3-chloro-5,6,7,8-tetrahydro-4-methylpyrido[4,3-c]pyridazine | ClC1=C(C2=C(N=N1)CCNC2)C | C8H10ClN3
reactant | maleate | C(\C=C/C(=O)[O-])(=O)[O-]
reactant | o-fluorobenzoyl chloride | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
product | 3-chloro-6-(o-fluorobenzoyl)-5,6,7,8-tetrahydro-4-methylpyrido[4,3-c]pyridazine | ClC1=C(C2=C(N=N1)CCN(C2)C(C2=C(C=CC=C2)F)=O)C | C15H13ClFN3O
